* File: /home/IC/lab6/BCLKGEN/bclkgen.pex.spi.pex
* Created: Mon Feb 24 09:57:49 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BCLKGEN_TRIGGER 5 9 18
c0 22 0 0.117058f
c1 15 0 0.107903f
c2 13 0 0.14511f
c3 9 0 0.140066f
c4 5 0 0.39153f
r5 21 22 8
r6 18 22 0.0806
r7 13 21 0.0744681
r8 12 15 6.2234
r9 12 13 13.2552
r10 7 15 4.73303
r11 7 9 38.5
r12 3 15 4.73303
r13 3 5 147
.ends

.subckt PM_BCLKGEN_NET16 5 9 38 39 43
c0 46 0 0.242911f
c1 42 0 0.436315f
c2 35 0 0.121033f
c3 27 0 0.134601f
c4 17 0 0.0722034f
c5 14 0 0.108437f
c6 12 0 0.155064f
c7 7 0 0.21964f
c8 5 0 0.169607f
r9 46 48 0.192
r10 45 48 16.3327
r11 45 46 5.44423
r12 43 45 1.1475
r13 41 42 8.16635
r14 39 41 2.295
r15 38 41 2.295
r16 35 36 8
r17 33 48 0.2168
r18 32 35 0.00233333
r19 32 33 0.0126889
r20 30 42 0.3292
r21 29 32 0.107333
r22 29 30 0.0126889
r23 27 36 0.09425
r24 24 27 0.0363174
r25 17 24 0.06357
r26 16 17 8
r27 12 16 0.0774468
r28 11 14 6.2234
r29 11 12 13.2552
r30 7 14 4.73303
r31 7 9 82.25
r32 3 14 4.73303
r33 3 5 62
.ends

.subckt PM_BCLKGEN_NET21 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.145923f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.228294f
c5 13 0 0.736401f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.124851
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_BCLKGEN_NET15 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.155043f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.193395f
c5 13 0 0.737025f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_BCLKGEN_NET14 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.154998f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.171669f
c5 13 0 0.735813f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_BCLKGEN_NET13 3 10 27 31
c0 36 0 0.108456f
c1 34 0 0.154998f
c2 29 0 0.219407f
c3 27 0 0.169738f
c4 16 0 0.17167f
c5 13 0 0.735813f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_BCLKGEN_NET12 3 10 27 31
c0 36 0 0.108446f
c1 34 0 0.154998f
c2 29 0 0.222736f
c3 27 0 0.166641f
c4 16 0 0.171637f
c5 13 0 0.73585f
c6 5 0 0.00784247f
r7 38 39 8
r8 34 38 0.0774468
r9 33 36 6.2234
r10 33 34 13.2552
r11 29 36 4.73303
r12 29 31 82.25
r13 25 36 4.73303
r14 25 27 62
r15 16 39 0.125348
r16 15 16 8
r17 13 15 0.292
r18 12 13 5.44423
r19 10 12 1.53
r20 6 8 0.288
r21 6 15 0.247
r22 5 8 5.44423
r23 5 6 5.44423
r24 3 5 0.765
.ends

.subckt PM_BCLKGEN_NET10 3 10 34 38 42 46
c0 66 0 0.0679819f
c1 61 0 0.174141f
c2 58 0 0.101993f
c3 56 0 0.134578f
c4 51 0 0.109412f
c5 46 0 0.143549f
c6 42 0 0.14359f
c7 38 0 0.141548f
c8 34 0 0.422916f
c9 29 0 1.18138f
c10 26 0 0.0687351f
c11 25 0 0.0504803f
c12 13 0 0.673697f
r13 65 66 8
r14 61 62 8
r15 56 65 0.0789362
r16 55 58 6.2234
r17 55 56 13.2552
r18 52 61 0.0744681
r19 51 52 13.2552
r20 48 51 6.2234
r21 44 58 4.73303
r22 44 46 49.25
r23 40 58 4.73303
r24 40 42 47.5
r25 36 48 4.73303
r26 36 38 37
r27 32 48 4.73303
r28 32 34 148.5
r29 29 62 1.5925
r30 27 66 0.0923
r31 26 29 0.0363174
r32 25 26 0.18395
r33 16 25 0.0181587
r34 16 27 0.0181587
r35 15 16 8
r36 13 15 0.292
r37 12 13 5.44423
r38 10 12 1.53
r39 6 8 0.288
r40 6 15 0.247
r41 5 8 5.44423
r42 5 6 5.44423
r43 3 5 0.765
.ends

.subckt PM_BCLKGEN_CLKOUT 3 10 20
c0 20 0 0.137784f
c1 13 0 0.528365f
r2 17 20 0.1534
r3 16 17 8
r4 13 16 0.289
r5 12 13 8.16635
r6 10 12 2.295
r7 6 8 0.192
r8 6 16 0.247
r9 5 8 8.16635
r10 5 6 5.44423
r11 3 5 0.859551
.ends

.subckt PM_BCLKGEN_XI7.NET07 6 11 18 22
c0 28 0 0.107109f
c1 26 0 0.203403f
c2 22 0 0.176517f
c3 18 0 0.141072f
c4 14 0 0.212999f
c5 9 0 0.171135f
c6 5 0 0.0477165f
r7 25 28 6.2234
r8 25 26 13.2552
r9 20 28 4.73303
r10 20 22 78
r11 16 28 4.73303
r12 16 18 50.25
r13 13 14 16.3327
r14 11 13 4.59
r15 8 9 8.16635
r16 6 8 2.295
r17 4 26 0.173511
r18 4 5 0.001755
r19 3 9 0.0922
r20 3 5 0.0375995
r21 2 14 0.2448
r22 2 5 0.0375995
.ends

.subckt PM_BCLKGEN_VSS 2 14 32 50 68 86 104 152 224 231 236
c0 239 0 0.174416f
c1 234 0 0.107293f
c2 227 0 0.116248f
c3 222 0 0.0352994f
c4 216 0 0.00729846f
c5 212 0 0.0347592f
c6 206 0 0.0187399f
c7 196 0 0.2199f
c8 195 0 0.0221598f
c9 188 0 0.268217f
c10 186 0 0.144f
c11 183 0 0.0117393f
c12 180 0 0.148854f
c13 179 0 0.0190312f
c14 175 0 0.179462f
c15 169 0 0.179954f
c16 163 0 0.179954f
c17 157 0 0.179954f
c18 149 0 0.179954f
c19 143 0 0.179954f
c20 107 0 0.219636f
c21 96 0 0.0182536f
c22 89 0 0.219653f
c23 78 0 0.0182536f
c24 71 0 0.219653f
c25 60 0 0.0182536f
c26 53 0 0.219653f
c27 42 0 0.0182536f
c28 35 0 0.220421f
c29 24 0 0.0182536f
c30 17 0 0.221536f
c31 6 0 0.0182536f
r32 239 247 0.1392
r33 238 239 8.16635
r34 236 238 2.295
r35 234 244 0.1192
r36 233 234 16.3327
r37 231 233 4.77
r38 227 230 0.192
r39 226 230 16.3327
r40 226 227 5.44423
r41 224 226 1.1475
r42 222 254 0.101
r43 221 222 16.3327
r44 216 254 0.00770322
r45 216 247 0.0296412
r46 215 216 16.3327
r47 212 251 0.103
r48 211 212 16.3327
r49 206 251 0.00770322
r50 206 244 0.0296412
r51 205 206 16.3327
r52 188 200 0.119957
r53 187 227 0.2032
r54 186 200 0.030812
r55 186 187 0.0561881
r56 183 216 0.0296412
r57 182 196 0.0338099
r58 182 183 0.048
r59 181 195 0.00997344
r60 180 196 0.00997344
r61 180 181 0.0999145
r62 179 206 0.0296412
r63 178 195 0.0338099
r64 178 179 0.077
r65 175 195 0.00997344
r66 150 152 0.000598291
r67 107 172 0.2142
r68 106 107 5.44423
r69 104 106 1.53
r70 102 175 0.0768803
r71 102 176 0.030812
r72 101 102 16.3327
r73 96 172 0.0338099
r74 96 169 0.00997344
r75 96 176 0.00997344
r76 95 96 16.3327
r77 89 166 0.2142
r78 88 89 5.44423
r79 86 88 1.53
r80 84 169 0.0774786
r81 84 170 0.030812
r82 83 84 16.3327
r83 78 166 0.0338099
r84 78 163 0.00997344
r85 78 170 0.00997344
r86 77 78 16.3327
r87 71 160 0.2142
r88 70 71 5.44423
r89 68 70 1.53
r90 66 163 0.0774786
r91 66 164 0.030812
r92 65 66 16.3327
r93 60 160 0.0338099
r94 60 157 0.00997344
r95 60 164 0.00997344
r96 59 60 16.3327
r97 53 154 0.2142
r98 52 53 5.44423
r99 50 52 1.53
r100 48 157 0.0774786
r101 48 158 0.030812
r102 47 48 16.3327
r103 42 154 0.0338099
r104 42 149 0.00997344
r105 42 158 0.00997344
r106 41 42 16.3327
r107 35 146 0.2142
r108 34 35 5.44423
r109 32 34 1.53
r110 30 149 0.0774786
r111 30 152 0.0302137
r112 29 30 16.3327
r113 24 146 0.0338099
r114 24 143 0.00997344
r115 24 150 0.00997344
r116 23 24 16.3327
r117 17 140 0.2142
r118 16 17 5.44423
r119 14 16 1.53
r120 12 143 0.0774786
r121 12 144 0.030812
r122 11 12 16.3327
r123 6 140 0.0338099
r124 6 188 0.00997344
r125 6 144 0.00997344
r126 5 6 16.3327
r127 2 221 6.60638
r128 2 215 6.60638
r129 2 211 6.60638
r130 2 205 6.60638
r131 2 200 5.44423
r132 2 101 6.46875
r133 2 95 6.46875
r134 2 83 6.46875
r135 2 77 6.46875
r136 2 65 6.46875
r137 2 59 6.46875
r138 2 47 6.46875
r139 2 41 6.46875
r140 2 29 6.46875
r141 2 23 6.46875
r142 2 11 6.46875
r143 2 5 6.46875
.ends

.subckt PM_BCLKGEN_VDD 2 3 19 35 51 67 83 171 176 181 186 226
c0 211 0 0.260926f
c1 207 0 0.0295618f
c2 201 0 0.0186238f
c3 189 0 0.326617f
c4 184 0 0.179938f
c5 179 0 0.149018f
c6 174 0 0.148918f
c7 169 0 0.0221598f
c8 160 0 0.149832f
c9 159 0 0.076512f
c10 156 0 0.202411f
c11 150 0 0.203025f
c12 144 0 0.203025f
c13 138 0 0.203025f
c14 132 0 0.203025f
c15 127 0 0.429695f
c16 126 0 0.203025f
c17 92 0 0.0182116f
c18 86 0 0.42354f
c19 83 0 0.0101617f
c20 76 0 0.0182116f
c21 70 0 0.417258f
c22 67 0 0.0101617f
c23 60 0 0.0182116f
c24 54 0 0.417256f
c25 51 0 0.0101617f
c26 44 0 0.0182116f
c27 38 0 0.417256f
c28 35 0 0.0101617f
c29 28 0 0.0182116f
c30 22 0 0.42283f
c31 19 0 0.00912928f
c32 6 0 0.392886f
c33 3 0 0.0101617f
r34 223 226 0.0173504
r35 223 224 0.0457181
r36 219 220 0.0457181
r37 211 230 0.0338099
r38 210 211 8.16635
r39 207 216 0.101
r40 206 207 16.3327
r41 201 216 0.00770322
r42 201 228 0.0296412
r43 200 201 16.3327
r44 195 223 0.0412821
r45 195 219 0.0412821
r46 192 230 0.2468
r47 189 192 0.192
r48 188 192 8.16635
r49 188 189 5.44423
r50 186 188 0.859551
r51 184 228 0.2448
r52 183 184 8.16635
r53 181 183 2.295
r54 179 224 0.2008
r55 178 179 8.16635
r56 176 178 2.295
r57 174 220 0.2008
r58 173 174 8.16635
r59 171 173 2.295
r60 161 169 0.00997344
r61 160 211 0.00997344
r62 160 161 0.0993162
r63 159 169 0.0338099
r64 158 201 0.0296412
r65 158 159 0.22
r66 156 169 0.00997344
r67 156 157 0.108291
r68 150 151 0.108291
r69 144 145 0.108291
r70 138 139 0.108291
r71 132 133 0.108291
r72 126 127 0.108291
r73 92 152 0.0338099
r74 92 150 0.00997344
r75 92 157 0.00997344
r76 91 92 8.16635
r77 89 152 0.1908
r78 86 89 0.288
r79 85 89 5.44423
r80 85 86 5.44423
r81 83 85 0.765
r82 76 146 0.0338099
r83 76 144 0.00997344
r84 76 151 0.00997344
r85 75 76 8.16635
r86 73 146 0.1908
r87 70 73 0.288
r88 69 73 5.44423
r89 69 70 5.44423
r90 67 69 0.765
r91 60 140 0.0338099
r92 60 138 0.00997344
r93 60 145 0.00997344
r94 59 60 8.16635
r95 57 140 0.1908
r96 54 57 0.288
r97 53 57 5.44423
r98 53 54 5.44423
r99 51 53 0.765
r100 44 134 0.0338099
r101 44 132 0.00997344
r102 44 139 0.00997344
r103 43 44 8.16635
r104 41 134 0.1908
r105 38 41 0.288
r106 37 41 5.44423
r107 37 38 5.44423
r108 35 37 0.765
r109 28 128 0.0338099
r110 28 126 0.00997344
r111 28 133 0.00997344
r112 27 28 8.16635
r113 25 128 0.1908
r114 22 25 0.288
r115 21 25 5.44423
r116 21 22 5.44423
r117 19 21 0.765
r118 12 127 0.0104701
r119 12 226 0.0717949
r120 12 122 0.0457181
r121 11 12 8.16635
r122 9 122 0.1908
r123 6 9 0.288
r124 5 9 5.44423
r125 5 6 5.44423
r126 3 5 0.765
r127 2 210 6.60638
r128 2 206 6.60638
r129 2 200 6.60638
r130 2 195 5.44423
r131 2 91 6.60638
r132 2 75 6.60638
r133 2 59 6.60638
r134 2 43 6.60638
r135 2 27 6.60638
r136 2 11 6.60638
.ends

.subckt PM_BCLKGEN_XI0.NET15 1 2
r0 1 2 2.295
.ends

