* File: /home/IC/lab6/BUF/buf.pex.spi.pex
* Created: Sat Feb 22 21:29:41 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUF_A 5 9 18
c0 18 0 0.0485287f
c1 15 0 0.102629f
c2 13 0 0.145553f
c3 9 0 0.129131f
c4 5 0 0.119839f
r5 18 20 8
r6 13 20 0.0789362
r7 12 15 6.2234
r8 12 13 13.2552
r9 7 15 4.73303
r10 7 9 45.5
r11 3 15 4.73303
r12 3 5 38.75
.ends

.subckt PM_BUF_OUT 11 18 24
c0 24 0 0.0481671f
c1 21 0 0.136226f
c2 14 0 0.255932f
c3 10 0 0.0621396f
c4 5 0 0.084344f
r5 20 21 8.16635
r6 18 20 2.295
r7 14 16 0.192
r8 13 16 8.16635
r9 13 14 5.44423
r10 11 13 0.859551
r11 9 14 0.2002
r12 9 10 0.0375995
r13 8 21 0.1918
r14 8 10 0.0375995
r15 5 24 8
r16 3 10 0.001755
r17 3 5 0.125106
.ends

.subckt PM_BUF_NET07 6 11 18 22
c0 28 0 0.104628f
c1 26 0 0.214645f
c2 22 0 0.172084f
c3 18 0 0.110422f
c4 14 0 0.1791f
c5 9 0 0.169662f
c6 5 0 0.0517978f
r7 25 28 6.2234
r8 25 26 13.2552
r9 20 28 4.73303
r10 20 22 78
r11 16 28 4.73303
r12 16 18 37.75
r13 13 14 16.3327
r14 11 13 4.59
r15 8 9 8.16635
r16 6 8 2.295
r17 4 26 0.173511
r18 4 5 0.001755
r19 3 9 0.0922
r20 3 5 0.0375995
r21 2 14 0.1948
r22 2 5 0.0375995
.ends

.subckt PM_BUF_VSS 7 10 31 36
c0 39 0 0.192719f
c1 34 0 0.0932542f
c2 29 0 0.036376f
c3 23 0 0.00747841f
c4 19 0 0.0351505f
c5 13 0 0.0136252f
c6 9 0 0.0117393f
c7 5 0 0.0678026f
c8 4 0 0.266269f
c9 3 0 0.0212109f
r10 39 44 0.1392
r11 38 39 8.16635
r12 36 38 2.295
r13 34 41 0.1192
r14 33 34 16.3327
r15 31 33 4.77
r16 29 50 0.101
r17 28 29 16.3327
r18 23 50 0.00770322
r19 23 44 0.0296412
r20 22 23 16.3327
r21 19 47 0.103
r22 18 19 16.3327
r23 13 47 0.00770322
r24 13 41 0.0296412
r25 12 13 16.3327
r26 10 28 6.60638
r27 10 22 6.60638
r28 10 18 6.60638
r29 10 12 6.60638
r30 9 23 0.0296412
r31 8 9 0.048
r32 5 7 0.0655128
r33 4 8 0.0561881
r34 4 7 0.0344017
r35 3 13 0.0296412
r36 2 5 0.0561881
r37 2 3 0.077
.ends

.subckt PM_BUF_VDD 9 10 11 16
c0 46 0 0.0997566f
c1 41 0 0.0274187f
c2 31 0 0.0296187f
c3 25 0 0.0133978f
c4 19 0 0.3142f
c5 14 0 0.149809f
c6 9 0 0.205956f
c7 6 0 0.0632842f
c8 5 0 0.0680916f
r9 46 52 0.0360506
r10 41 46 0.103
r11 40 41 16.3327
r12 34 52 16.3327
r13 31 43 0.101
r14 30 31 16.3327
r15 25 43 0.00770322
r16 25 49 0.0296412
r17 24 25 16.3327
r18 22 52 0.2908
r19 19 22 0.192
r20 18 22 8.16635
r21 18 19 5.44423
r22 16 18 0.859551
r23 14 49 0.2448
r24 13 14 8.16635
r25 11 13 2.295
r26 10 40 6.60638
r27 10 34 6.60638
r28 10 30 6.60638
r29 10 24 6.60638
r30 7 9 0.00997344
r31 6 52 0.0729173
r32 6 7 0.0463675
r33 5 9 0.0338099
r34 4 25 0.0296412
r35 4 5 0.22
.ends

